US06770665B2
3-(2-Chloro-6-fluorophenyl)-(5-bromo-4-methylthien-3-yl)-1-methyl-1H-1,2,4-triazole
A suspension of 3-(2-chloro-6-fluorophenyl)-1-methyl-5-(4-methylthien-3-yl)-1H-1,2,4-triazole (2.35 g, 7.6 mmol) in glacial acetic acid (15 mL) was heated to 45° C. in order to effect solubilization. After cooling to 10° C., a solution of bromine (1.34 g, 0.43 mL, 8.4 mmol) in glacial acetic acid (4 mL) was added and the thick gel formed was stirred for 14 hours at room temperature. The reaction mixture was poured into cold water (100 mL) and extracted with ether (3×70 mL). The combined ethereal extracts were washed with water (100 mL), saturated aqueous sodium bicarbonate (2×100 mL), aqueous sodium bisulphite (10% solution, 300 mL) and brine (100 mL), dried over magnesium sulphate and concentrated under reduced pressure. Recrystallisation from ethyl acetate/hexane afforded yellow cubes. The mother liquor was chromatographed over silica gel to afford the product as colorless cubes (2.6 g, 89%): mp 133-134° C.; 1H NMR (CDCl3) δ 7.51 (s, 1H), 7.29-7.39 (m, 2H), 7.11 (t, 1H), 3.98 (s, 3H), 2.27 (s, 3H); EI/MS 386 m/e (M+).

reactant | 3-(2-chloro-6-fluorophenyl)-1-methyl-5-(4-methylthien-3-yl)-1H-1,2,4-triazole | 7.6 mmol, 2.35 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CSC=C1C)C | C14H11ClFN3S
reactant | bromine | 8.4 mmol, 0.43 mL, 1.34 g | BrBr | Br2
reactant | water | 100 mL | O | H2O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | 3-(2-Chloro-6-fluorophenyl)-(5-bromo-4-methylthien-3-yl)-1-methyl-1H-1,2,4-triazole | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CSC(=C1C)Br)C | C14H10BrClFN3S
